US09062070B2
Step B: N-[5-bromo-4-(2-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide
A solution of N-(5-bromo-4-methylpyridin-2-yl)-2,2-dimethylpropanamide (30.0 g, 111 mmol) in THF (80 mL) was cooled in an ice bath and treated dropwise with a solution of lithium diisopropylamine in heptane/THF/ethylbenzene (2.0 M, 138 mL). After stirring 1 h, the solution was treated with paraformaldehyde (24.9 g, 277 mmol) and allowed to warm gradually to room temperature while stirring 12 h. The mixture was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. Purification by MPLC (eluent 6-50% ethyl acetate/hexanes) afforded the title compound: LC/MS (M+1)+=300.87.

reactant | N-(5-bromo-4-methylpyridin-2-yl)-2,2-dimethylpropanamide | 111 mmol, 30.0 g | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C11H15BrN2O
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | paraformaldehyde | 277 mmol, 24.9 g | C=O | CH2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | 2.0 M, 138 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-[5-bromo-4-(2-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)CCO | C12H17BrN2O2
